US07902252B2
6.1.c) Synthesis of ±(1S,5S)-3-chlorobicyclo[3.1.0]hex-2-ene-2-carbaldehyde
Bicyclo[3.1.0]hexan-3-one (192 mg, 2.0 mmol) was reacted with POCl3, (0.33 mL, 3.6 mmol) and dry DMF (0.31 mL, 4.0 mmol) in dry CH2Cl2 (0.3 mL) according to General Procedure 1.1.A. The material was purified by passing through a pad of silica gel eluting with Et2O to afford the title compound. The material was used as is in the next step.

reactant | Bicyclo[3.1.0]hexan-3-one | 2.0 mmol, 192 mg | C12CC(CC2C1)=O | C6H8O
reactant | POCl3 | 3.6 mmol, 0.33 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 4.0 mmol, 0.31 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 0.3 mL | C(Cl)Cl | CH2Cl2
product | (1S,5S)-3-chlorobicyclo[3.1.0]hex-2-ene-2-carbaldehyde | ClC1=C([C@H]2C[C@H]2C1)C=O | C7H7ClO
